US04695571
F1. 5-ethylamino-2,3-dihydrobenzofuran
A mixture of 148 g. (1.09 moles) of 5-amino-2,3-dihydrobenzofuran and 93 g. of W2 Raney nickel in 850 ml. of ethanol was heated to reflux for 24 hours. The reaction was cooled to 25° C., filtered and evaporated to give a quantitative yield of the desired intermediate.

reactant | 5-amino-2,3-dihydrobenzofuran | 1.09 moles | NC=1C=CC2=C(CCO2)C1 | C8H9NO
reactant | ethanol | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 5-ethylamino-2,3-dihydrobenzofuran | quantitative yield | C(C)NC=1C=CC2=C(CCO2)C1 | C10H13NO
